US08912186B2
Prepared by dissolving an equimolar mixture of 3-(4-chlorophenyl)glutaric anhydride and commercial 5-chloro-2-hydroxyaniline in boiling dichloromethane. Upon cooling to rt product precipitates and yields after isolation 87% of N-(2-hydroxy-5-chlorophenyl)-3-(4-chlorophenyl)glutaramic acid as colourless crystals.

reactant | 3-(4-chlorophenyl)glutaric anhydride | ClC1=CC=C(C=C1)C1CC(=O)OC(C1)=O | C11H9ClO3
reactant | 5-chloro-2-hydroxyaniline | ClC=1C=CC(=C(N)C1)O | C6H6ClNO
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-(2-hydroxy-5-chlorophenyl)-3-(4-chlorophenyl)glutaramic acid | 87% | OC1=C(C=C(C=C1)Cl)NC(CC(CC(=O)O)C1=CC=C(C=C1)Cl)=O | C17H15Cl2NO4
